US08067457B2
N-(2-oxo-2-(1-(tetrahydro-2H-pyran-4-yl)piperidin-3-ylamino)ethyl)-3-(trifluoromethyl)benzamide
The title compound was synthesized in similar fashion to N-(2-oxo-2-{[1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide whereby 1-benzylpiperidin-3-amine was substituted for (3R)-1-benzylpyrrolidin-3-amine as was isolated as a white solid.

reactant | N-(2-oxo-2-{[1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)NC1CN(CC1)C1CCOCC1 | C19H24F3N3O3
reactant | 1-benzylpiperidin-3-amine | C(C1=CC=CC=C1)N1CC(CCC1)N | C12H18N2
reactant | (3R)-1-benzylpyrrolidin-3-amine | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
product | N-(2-oxo-2-(1-(tetrahydro-2H-pyran-4-yl)piperidin-3-ylamino)ethyl)-3-(trifluoromethyl)benzamide | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)NC1CN(CCC1)C1CCOCC1 | C20H26F3N3O3
